US06617346B1
To a solution of 4-bromo-3-propoxy-phenol (500 mg, 2.164 mmol) in acetone (10 mL) were added potassium carbonate (299 mg, 2.164 mmol) and methyl iodide (674 μL, 10.82 mmol). The reaction mixture was heated at gentle reflux for 12 h. The solvent was removed and the residue was taken in diethyl ether (50 mL). The white solid was filtered off, and the filtrated was concentrated in vacuo. Purification of the crude residue by flash chromatography (Biotage system, KP-Sil™ 32-63 μm, 60 Å silica gel) eluting with 5-10% ethyl acetate in hexanes yielded 1-bromo-4-methoxy-2-propoxy-benzene as a clear oil (515 mg, 97%).

reactant | 4-bromo-3-propoxy-phenol | 2.164 mmol, 500 mg | BrC1=C(C=C(C=C1)O)OCCC | C9H11BrO2
reactant | potassium carbonate | 2.164 mmol, 299 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 10.82 mmol, 674 μL | CI | CH3I
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 1-bromo-4-methoxy-2-propoxy-benzene | 515 mg, 97% | BrC1=C(C=C(C=C1)OC)OCCC | C10H13BrO2
